US07692005B2
Step 4: 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl)-phenyl]-amide
2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indol-5-ylmethyl)-phenyl]-amide (0.140 g, 0.374 mmol) and ethyl formate (0.060 mL, 0.816 mmol) were dissolved in anhydrous ethanol (0.250 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.42 mL, 1.12 mmol). This reaction mixture was heated at 78° C. for 0.5-1 h, producing a viscous, dark reddish colored oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 3 with dropwise addition of 1M HCl(aq) causing the formation of a grey precipitate. The suspension was filtered yielding a grey solid as the pure product (0.070 g, 0.175 mmol, 47%).

reactant | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indol-5-ylmethyl)-phenyl]-amide | 0.374 mmol, 0.140 g | O=C1NC2=CC=C(C=C2C1)CC1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)CC | C22H22N4O2
reactant | ethyl formate | 0.816 mmol, 0.060 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 0.250 mL | C(C)O | C2H6O
solvent | ethanol | 1.12 mmol, 0.42 mL | C(C)O | C2H6O
product | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl)-phenyl]-amide | 0.175 mmol, 0.070 g, 47% | OC=C1C(NC2=CC=C(C=C12)CC1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)CC)=O | C23H22N4O3
